US09340546B2
To 2-amino-6-fluoro-N-(7-methyl-5,6,7,8-tetrahydro-2,7-naphthyridin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide (12 mg, 0.03516 mmol) in DCM (2 mL) was added mCPBA (5.764 mg, 0.03340 mmol) and the mixture was stirred at RT for 2 h before the solvent was removed in vacuo. The residue was purified by FractionLynx to yield 5-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)-2-methyl-1,2,3,4-tetrahydro-2,7-naphthyridine 2-oxide. MS (ES+) 358.2.

reactant | 2-amino-6-fluoro-N-(7-methyl-5,6,7,8-tetrahydro-2,7-naphthyridin-4-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 0.03516 mmol, 12 mg | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC1=CN=CC=2CN(CCC12)C | C16H16FN7O
reactant | mCPBA | 0.03340 mmol, 5.764 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxamido)-2-methyl-1,2,3,4-tetrahydro-2,7-naphthyridine 2-oxide | NC1=NN2C(N=CC(=C2)F)=C1C(=O)NC1=C2CC[N+](CC2=CN=C1)(C)[O-] | C16H16FN7O2
